US07696231B2
b) Preparation of N-(4-{[2-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-carbonyl}phenyl)-2-phenoxyacetamide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added N-[4-(hydrazinocarbonyl)phenyl]-2-phenoxyacetamide. After stirring at 100° C. the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 222 mg of the title compound (82%) as a yellow solid in 98.1% purity by HPLC (Rt: 4.41, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | N-[4-(hydrazinocarbonyl)phenyl]-2-phenoxyacetamide | N(N)C(=O)C1=CC=C(C=C1)NC(COC1=CC=CC=C1)=O | C15H15N3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(4-{[2-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]-carbonyl}phenyl)-2-phenoxyacetamide | 222 mg, 82% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(C=C1)NC(COC1=CC=CC=C1)=O | C23H17IN4O4
